US09301951B2
(R)-6-((3-Acetamidopyrrolidin-1-yl)methyl)-N-(4-(piperidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)picolinamide 2,2,2-trifluoroacetate
Into a 50-mL round-bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-(2-(chloromethyl)picolinamido)-5-(piperidin-1-yl)phenyl)isonicotinamide (100 mg, 0.15 mmol, 1.00 equiv, 90%) in N,N-dimethylformamide (3 mL), (R)—N-(pyrrolidin-3-yl)acetamide (42 mg, 0.33 mmol, 2.00 equiv), potassium carbonate (45 mg, 0.33 mmol, 2.00 equiv), and potassium iodide (14 mg, 0.08 mmol, 0.50 equiv). The resulting solution was stirred for 3 h at 60° C. in an oil bath. The resulting solution was diluted with 100 mL of ethyl acetate. The resulting mixture was washed with 3×20 mL of brine, dried over anhydrous sodium sulfate, and concentrated under vacuum. The crude product (100 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 33.4 mg (27%) of a yellow solid. 1H-NMR (300 MHz, CD3OD, ppm): δ 8.90 (d, J=6 Hz, 1H), 8.40 (s, 1H), 8.26 (m, 1H), 8.21-8.09 (m, 2H), 7.98 (d, J=3 Hz, 1H), 7.82 (d, J=6 Hz, 1H), 7.71-7.50 (m, 6H), 4.65 (m, 4H), 4.20 (m, 1H), 3.85 (m, 1H), 3.66-3.63 (m, 4H), 2.50 (m, 1H), 2.00 (m, 4H), 1.80 (m, 3H), 1.68 (m, 3H). MS (ES, m/z): 700 [M+H]+.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-(2-(chloromethyl)picolinamido)-5-(piperidin-1-yl)phenyl)isonicotinamide | 0.15 mmol, 100 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2(NC=CC=C2)CCl)=O)=O)C=CC1)(F)F | C32H31ClF3N5O2
reactant | (R)—N-(pyrrolidin-3-yl)acetamide | 0.33 mmol, 42 mg, 2.00 equiv | N1C[C@@H](CC1)NC(C)=O | C6H12N2O
reactant | potassium carbonate | 0.33 mmol, 45 mg, 2.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.08 mmol, 14 mg, 0.50 equiv | [I-].[K+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (R)-6-((3-Acetamidopyrrolidin-1-yl)methyl)-N-(4-(piperidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)picolinamide 2,2,2-trifluoroacetate | 33.4 mg, 27% | FC(C(=O)O)(F)F.C(C)(=O)N[C@H]1CN(CC1)CC1=CC=CC(=N1)C(=O)NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O | InChI=1S/C38H40F3N7O3.C2HF3O2/c1-25(49)44-30-14-18-47(24-30)23-29-9-6-10-34(45-29)37(51)46-33-12-11-31(48-16-3-2-4-17-48)21-32(33)35-20-27(13-15-42-35)36(50)43-22-26-7-5-8-28(19-26)38(39,40)41;3-2(4,5)1(6)7/h5-13,15,19-21,30H,2-4,14,16-18,22-24H2,1H3,(H,43,50)(H,44,49)(H,46,51);(H,6,7)/t30-;/m1./s1
